US08809525B2
5-Phenyl-1,2,4-triazin-3-amine (1.70 g, 73%) was prepared from 3-(methylsulfonyl)-5-phenyl-1,2,4-triazine (3.20 g, 13.6 mmol) and 0.5 M ammonia in THF (100 mL, 500 mmol) according to the general procedure of Preparation 2.

reactant | 3-(methylsulfonyl)-5-phenyl-1,2,4-triazine | 13.6 mmol, 3.20 g | CS(=O)(=O)C=1N=NC=C(N1)C1=CC=CC=C1 | C10H9N3O2S
reactant | ammonia | 0.5 M | N | H3N
reactant | THF | 500 mmol, 100 mL | C1CCOC1 | C4H8O
product | 5-Phenyl-1,2,4-triazin-3-amine | 1.70 g, 73% | C1(=CC=CC=C1)C=1N=C(N=NC1)N | C9H8N4
